US06713499B2
To a stirred solution of 103 mg (0.51 mmol) 2-bromo-isonicotinic acid in 3 ml THF were added 204 mg (0.53 mmol) HATU and 0.11 ml (1.02 mmol) N-methylmorpholine and stirring continued at 30° C. for 7 h. 75 mg (0.26 mmol) 4-methoxy-N7-methyl-N7-(tetrahydro-pyran-4-yl)-benzothiazole-2,7-diamine was then added and stirring continued at 40° C. for 16 h. The reaction mixture was then diluted with ethyl acetate and washed sequentially with saturated sodium bicarbonate solution and brine. The organic phase was dried over sodium sulfate and concentrated in vacuo. Flash chromatography (methanol/dichloromethane) followed by trituration in ether/pentane afforded 77 mg (63%) 2-bromo-N-{4-methoxy-7-[methyl-(tetrahydro-pyran-4-yl)-amino]-benzothiazol-2-yl}-isonicotinamide as a white crystalline solid. ES-MS m/e (%): 479 (M{81Br}+H+, 100), 477 (M{79Br}+H+, 95).

reactant | 2-bromo-isonicotinic acid | 0.51 mmol, 103 mg | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | HATU | 0.53 mmol, 204 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 1.02 mmol, 0.11 ml | CN1CCOCC1 | C5H11NO
reactant | 4-methoxy-N7-methyl-N7-(tetrahydro-pyran-4-yl)-benzothiazole-2,7-diamine | 0.26 mmol, 75 mg | COC1=CC=C(C2=C1N=C(S2)N)N(C2CCOCC2)C | C14H19N3O2S
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-N-{4-methoxy-7-[methyl-(tetrahydro-pyran-4-yl)-amino]-benzothiazol-2-yl}-isonicotinamide | 77 mg, 63% | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N(C3CCOCC3)C)OC)C=CN1 | C20H21BrN4O3S
